data/mechanisms/records/IMS8-EQ8.90.json
{"mechanism_id": "IMS8-EQ8.90", "species": [{"species_id": "hexanal_molecular_ion_carbonyl_O_ionized", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH2:2][CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_hydroxycarbenium_gamma_radical", "mapped_smiles": "[CH3:6][CH2:5][CH:4][CH2:3][CH2:2][CH+:1][O:7][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ionized_2_ethylcyclobutanol", "mapped_smiles": "[CH3:6][CH2:5][CH:4]1[CH2:3][CH2:2][CH:1]1[O+:7][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "but_1_en_1_ol_radical_cation", "mapped_smiles": "[CH3:6][CH2:5][CH:4]=[CH:1][O+:7][1H:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:3]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanal_molecular_ion_carbonyl_O_ionized"]}, {"state_id": "state_distonic", "species_ids": ["distonic_hydroxycarbenium_gamma_radical"]}, {"state_id": "state_cyclobutane", "species_ids": ["ionized_2_ethylcyclobutanol"]}, {"state_id": "state_products", "species_ids": ["but_1_en_1_ol_radical_cation", "ethylene_neutral"]}], "steps": [{"step_id": "step_rH_gamma_H_to_carbonyl_oxygen", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "bond", "atom_maps": [7, 10]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "lone_pair", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_cyclization_to_cyclobutane_ring", "from_state": "state_distonic", "to_state": "state_cyclobutane", "step_class": "radical_site_cyclization", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_retro_2plus2_ethylene_loss", "from_state": "state_cyclobutane", "to_state": "state_products", "step_class": "retro_2plus2_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_gamma_H_to_carbonyl_oxygen", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.90", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.75, "curator_note": "First arrow of Equation 8.90 (labelled 'rH'). The drawn substrate is generic: 'R' on the gamma carbon of an ALKANAL whose carbonyl carbon carries an explicit H, ionized on the carbonyl oxygen ('+.' printed over the O). The running text fixes the smallest homolog for which this channel matters ('not in the spectra of lower homologs (below hexanal)'), so R = ethyl and the instantiation encoded here is HEXANAL; every m/z in this record follows from that curator choice, not from the page. Book draws 2 arcs; moves <1,2> are drawn (a large fishhook whose tail sits on the gamma C-H bond and whose head points at the O, and a small fishhook from the '+.' odd electron on O curving down toward the same forming O-H bond). Move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - the second C-H electron stays on the gamma carbon, which is why the next structure is drawn with a '.' there. Move <4> (the C=O pi PAIR collapsing onto oxygen as a lone pair) is likewise NOT drawn: it is forced by the book's own next structure, which prints '+' next to the carbon and draws a plain single-bonded O-H, i.e. the C(+)-OH carbenium valence-bond form rather than the C=OH(+) oxocarbenium form. Encoding the drawn form honestly therefore needs this fourth (undrawn) move; the two forms are resonance structures of the same distonic ion (convention C: the C(+)-OH form drawn by the book is the one carried through this record)."}, {"evidence_id": "ev_step_cyclization", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_cyclization_to_cyclobutane_ring", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.90", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.65, "curator_note": "Second arrow of Equation 8.90 (bare arrow, no label). Book draws 2 arcs, and BOTH are encoded - no implicit hook is needed here: <1> a fishhook from the '.' on the gamma carbon curving right, and <2> a fishhook from the O curving down-left; both heads point into the interior of the drawn loop, i.e. at the forming gamma-C/carbonyl-C sigma bond. Because the book's reactant here is the C(+)-OH form, the second electron of that new C-C bond can only come from an oxygen lone pair, which is exactly what the drawn arc shows and why the product is drawn as the ionized cyclobutanol with '+.' on the OH oxygen. The validator's soft note 'atom 7: radical change +1 vs arrows -1 (consistent with a lone pair rather than radicals)' is precisely this lone-pair-to-radical bookkeeping and is expected. Product: the four-membered ring is gamma-C / beta-C / alpha-C / carbonyl-C, i.e. ionized 2-ethylcyclobutanol for the hexanal instantiation."}, {"evidence_id": "ev_step_retro", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_2plus2_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.90", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.6, "curator_note": "Third arrow of Equation 8.90 (bare arrow). Book draws 0 arcs on the cyclobutane structure - the electron flow encoded here is read off the two drawn structures: the ring splits across the diagonal pair of bonds gamma-C/beta-C and alpha-C/carbonyl-C, the remaining gamma-C/carbonyl-C bond becomes the enol double bond of R-CH=CH-OH(+.) and the beta-C/alpha-C bond becomes CH2=CH2. Encoded as the standard retro-[2+2]: two two-electron (double-barbed) moves, each carrying a breaking sigma pair into one of the two forming pi bonds; the charge and the odd electron stay on the enol oxygen as drawn. This partition is what makes 8.90 an ETHYLENE loss (28 u) and distinguishes it from the ordinary McLafferty split of the same distonic ion, which would expel the R-side alkene and keep CH2=CHOH(+.) (m/z 44)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_C2H4", "species_id": "but_1_en_1_ol_radical_cation", "step_id": "step_retro_2plus2_ethylene_loss", "observed_mz": 72.057, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
